US06642248B2
Step 1: 3-[(8-Methoxy-2,2-dimethyl-2H-chromen-5-yl)amino]-2-naphthoic Acid
A solution containing 1.2 mmol of 3-bromonaphthalene-2-carboxylic acid, 1.19 mmol of 7-methoxy-2,2-dimethyl-2H-1-benzopyran-5-ylamine, 2.38 mmol of potassium acetate, 10 mg of Cu(OAc)2.H2O and 1.19 mmol of triethylamine in 17 ml of 2-propanol is refluxed for 24 hours and then concentrated under reduced pressure. The residue obtained is taken up in a 2/1 mixture of dichloromethane/1N HCl. The aqueous phase is extracted with dichloromethane and the combined organic phases are then treated in conventional manner. Chromatography of the residue over silica gel (dichloromethane) allows the expected product to be isolated.

reactant | 3-bromonaphthalene-2-carboxylic acid | 1.2 mmol | BrC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H7BrO2
reactant | 7-methoxy-2,2-dimethyl-2H-1-benzopyran-5-ylamine | 1.19 mmol | COC1=CC2=C(C=CC(O2)(C)C)C(=C1)N | C12H15NO2
reactant | potassium acetate | 2.38 mmol | C(C)(=O)[O-].[K+]
reactant | triethylamine | 1.19 mmol | C(C)N(CC)CC | C6H15N
solvent | 2-propanol | 17 ml | CC(C)O | C3H8O
catalyst | Cu(OAc)2.H2O | 10 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2].O
solvent | dichloromethane | 1N | ClCCl | CH2Cl2
product | 3-[(8-Methoxy-2,2-dimethyl-2H-chromen-5-yl)amino]-2-naphthoic Acid | COC=1C=CC(=C2C=CC(OC12)(C)C)NC=1C(=CC2=CC=CC=C2C1)C(=O)O | C23H21NO4
